US07226920B2
[6-(3-Phenylamino-[1,2,4]triazol-1-yl)-pyrimidin-4-yl]-piperidin-3-yl-amine:
To a suspension of [1-(6-Chloro-pyrimidin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine (0.25 mmol) in dioxane (5 ml), was added some (S)-3-amino-N-boc-piperidine (1 mmol, 4 equivalents) and DIPEA (1 mmol, 4 equivalents). The reaction mixture was stirred at 80° C. for two hours then 100° C. for eighteen hours. The reaction mixture was diluted with ethyl acetate (50 ml). The organic layer was washed with 10% citric acid, saturated sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate. Filtrated and the organic layer was concentrated in vacuo to afford a pale yellow solid.

reactant | [1-(6-Chloro-pyrimidin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine | 0.25 mmol | ClC1=CC(=NC=N1)N1N=C(N=C1)NC1=CC=CC=C1 | C12H9ClN6
reactant | (S)-3-amino-N-boc-piperidine | 1 mmol, 4 equivalents | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 1 mmol, 4 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | [6-(3-Phenylamino-[1,2,4]triazol-1-yl)-pyrimidin-4-yl]-piperidin-3-yl-amine | C1(=CC=CC=C1)NC1=NN(C=N1)C1=CC(=NC=N1)NC1CNCCC1 | C17H20N8
